US07906533B2
A mixture of 1-(4-aminomethyl-pyridin-2-yl)-3-methyl-urea (3.8 g, 21.1 mmol) and 2-chloro-nicotinic acid methyl ester [Mann et al. J. Chem. Soc.; 1952; 2057, 2060] (1.78 g, 10.4 mmol) was heated for 1 hour at 120° C. The crude product was purified by chromatography on silica gel (Gradient elution: 100% CH2Cl2 to 93% CH2Cl2/7% MeOH) to give 2-{[2-(3-methyl-ureido)-pyridin-4-ylmethyl]-amino}-nicotinic acid methyl ester (2.06 g); Mp. 145-146° C.

reactant | 1-(4-aminomethyl-pyridin-2-yl)-3-methyl-urea | 21.1 mmol, 3.8 g | NCC1=CC(=NC=C1)NC(=O)NC | C8H12N4O
reactant | 2-chloro-nicotinic acid methyl ester | 10.4 mmol, 1.78 g | COC(C1=C(N=CC=C1)Cl)=O | C7H6ClNO2
product | 2-{[2-(3-methyl-ureido)-pyridin-4-ylmethyl]-amino}-nicotinic acid methyl ester | 2.06 g | COC(C1=C(N=CC=C1)NCC1=CC(=NC=C1)NC(=O)NC)=O | C15H17N5O3
